US04558164
A 250 ml shaker bomb is charged with 79 g (0.50 mole) p-nitrochlorobenzene, 43 g n-butanol, 3 g (0.03 mole) potassium acetate, and 30 g (0.28 mole) sodium carbonate. The reactor is purged with nitrogen and heated to and maintained at 200° C. under autogenous pressure for 9 hours. No increase in pressure is observed and no 4,4'-dinitrodiphenyl ether is formed. This example illustrates that the reaction will not proceed using a protic solvent.

reactant | p-nitrochlorobenzene | 0.50 mole, 79 g | [N+](=O)([O-])C1=CC=C(C=C1)Cl | C6H4ClNO2
reactant | potassium acetate | 0.03 mole, 3 g | C(C)(=O)[O-].[K+]
reactant | sodium carbonate | 0.28 mole, 30 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | n-butanol | 43 g | C(CCC)O | C4H10O
product | 4,4'-dinitrodiphenyl ether | C1=CC(=CC=C1[N+](=O)[O-])OC2=CC=C(C=C2)[N+](=O)[O-] | C12H8N2O5
